US05369110
The starting material can be prepared, for example, as follows: Analogously to Example 4b) and using 2.64 g of N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amine and 2.68 g of ethylmalonic acid monoethyl ester monochloride as starting materials, there is obtained 2-ethoxycarbonylbutanoic acid N-butyl-N-(2'-cyano-biphenyl-4-ylmethyl)-amide that has an Rf value of 0.65 [CH2Cl2 /CH3OH (95:5)].

reactant | N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amine | 2.64 g | C(CCC)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C18H20N2
reactant | ethylmalonic acid monoethyl ester monochloride | 2.68 g | [Cl-].C(C)OC(C(C(=O)O)CC)=O
product | 2-ethoxycarbonylbutanoic acid N-butyl-N-(2'-cyano-biphenyl-4-ylmethyl)-amide | C(CCC)N(C(C(CC)C(=O)OCC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C25H30N2O3
